US06723716B1
4-(2-t-Butyloxycarbonylaminoethylthiomethyl)-2-mercapto-1,3-thiazole
To a stirred solution of 1-(2-t-butyloxycarbonylaminoethylthio)-3-chloropropan-2-one (11.47 g, 42.8 mmol) in methanol (50 mL) was added ammonium dithiocarbamate (4.73 g, 42.9 mmol) at room temperature. After 50 hours the reaction mixture was partitioned between ethyl acetate and water.

reactant | 1-(2-t-butyloxycarbonylaminoethylthio)-3-chloropropan-2-one | 42.8 mmol, 11.47 g | C(C)(C)(C)OC(=O)NCCSCC(CCl)=O | C10H18ClNO3S
reactant | ammonium dithiocarbamate | 42.9 mmol, 4.73 g | C(N)([S-])=S.[NH4+]
solvent | methanol | 50 mL | CO | CH4O
product | 4-(2-t-Butyloxycarbonylaminoethylthiomethyl)-2-mercapto-1,3-thiazole | C(C)(C)(C)OC(=O)NCCSCC=1N=C(SC1)S | C11H18N2O2S3
